US04681962
To 1.1 g of platinium in 50 ml of ethyl acetate was added a solution of 11 g (0.028 mol) of [3aR-[3a alpha,4alpha(1E,3R*,4S*),5beta,6a alpha]]-5-(benzoyloxy)-4-(4-fluoro-3-hydroxy-1-octenyl)hexahydro-2H-cyclopenta[b]furan-2-one in 110 ml of ethyl acetate. The mixture was then hydrogenated until the theoretical uptake of hydrogen was complete and then filtered through a bed of Celite. The solvent was then removed under reduced pressure and the residue chromatographed over 250 g of silica gel (toluene -α 30% by volume ethyl acetate/70% by volume toluene) to afford 10.7 g of [3aR-[3a alpha,4alpha(3R*,4S*),5beta,6a alpha)]-5-(benzoyloxy)-4-(4-fluoro-3-hydroxyoctyl)hexahydro-2H-cyclopenta[b]furan-2-one (94% yield) as a colorless oil.

reactant | 5-(benzoyloxy)-4-(4-fluoro-3-hydroxy-1-octenyl)hexahydro-2H-cyclopenta[b]furan-2-one | C(C1=CC=CC=C1)(=O)OC1C(C2C(OC(C2)=O)C1)C=CC(C(CCCC)F)O | C22H27FO5
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 110 ml | C(C)(=O)OCC | C4H8O2
product | 5-(benzoyloxy)-4-(4-fluoro-3-hydroxyoctyl)hexahydro-2H-cyclopenta[b]furan-2-one | 94% yield | C(C1=CC=CC=C1)(=O)OC1C(C2C(OC(C2)=O)C1)CCC(C(CCCC)F)O | C22H29FO5
